US08563565B2
5 N sodium hydroxide (0.5 mL) was added to a solution of ethyl 5-[2,5-difluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate (280 mg) in ethanol (3.6 mL), and the mixture was stirred at 65° C. for three hours. After cooling the reaction mixture to room temperature, chloroform and brine were added, and the mixture was adjusted to pH 6 with 5 N hydrochloric acid and saturated ammonium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, and the desiccant was removed by filtration. The filtrate was concentrated under reduced pressure to give 5-(2,5-difluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl)-1-((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylic acid (238 mg) as a crude purified product. CDI (121 mg) was added to a solution of the carboxylic acid (238 mg) in DMF (3 mL), and the mixture was stirred at room temperature for one hour. A 28% aqueous ammonia solution (0.6 mL) was added to the reaction mixture, followed by stirring overnight. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned by adding chloroform and a saturated aqueous sodium bicarbonate solution. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate, and the desiccant was removed by filtration. The filtrate was passed through a silica gel pad (NH silica gel; eluting with ethyl acetate), and the resulting filtrate was concentrated under reduced pressure to give the title compound (186 mg).

reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
reactant | ethyl 5-[2,5-difluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylate | 280 mg | FC1=C(C=C(C(=C1)C1=C(C(=NC=C1C)OC)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C24H25F2N3O4
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 3.6 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(2,5-difluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl)-1-((S)-tetrahydrofuran-3-yl)-1H-pyrazole-4-carboxylic acid | 238 mg | FC1=C(C=C(C(=C1)C1=C(C(=NC=C1C)OC)C)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)O | C22H21F2N3O4
